US04772614
7-Chloro-1-methyl-4-quinolone (6.9 g) and chlorosulphonic acid (14 ml) were stirred and heated at 140° for 2 hours. The reaction mixture was cooled to room temperature and carefully added dropwise to ice water (200 ml). The solid which formed was collected, washed with water and dried in air to give the novel compound 7-chloro-1-methyl-4-oxo-1,4-dihydroquinoline-3-sulphonyl chloride, m.p. >300°.

reactant | 7-Chloro-1-methyl-4-quinolone | 6.9 g | ClC1=CC=C2C(C=CN(C2=C1)C)=O | C10H8ClNO
reactant | chlorosulphonic acid | 14 ml | ClS(=O)(=O)O | ClHO3S
product | 7-chloro-1-methyl-4-oxo-1,4-dihydroquinoline-3-sulphonyl chloride | ClC1=CC=C2C(C(=CN(C2=C1)C)S(=O)(=O)Cl)=O | C10H7Cl2NO3S
